US08242104B2
8-Bromo-2-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (6.000 g, 0.01534 mol) followed by palladium acetate (0.1722 g, 0.0007672 mol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.8879 g, 0.001534 mol) were added sequentially to a dry nitrogen-filled flask. Degassed triethylamine (180 mL, 1.3 mol) and methanol (60 mL) were added, and the reaction mixture was thoroughly purged with a carbon monoxide balloon for about 3 minutes. Two carbon monoxide balloons were fixed to the flask and the reaction was heated to 50° C. for 3 hours. The reaction was purged with nitrogen, concentrated in vacuo, and dry loaded onto silica gel. The crude was purified by flash chromatography (40-100% ethyl acetate in hexanes followed by 5-15% MeOH in DCM) to give 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid methyl ester (4.242 g) as a light brown solid. MS (ESI+) 323.0/325.0

reactant | 8-Bromo-2-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 0.01534 mol, 6.000 g | BrC1=CC2=C(C3=NC(=CN3CCO2)I)C=C1 | C11H8BrIN2O
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.001534 mol, 0.8879 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | triethylamine | 1.3 mol, 180 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 60 mL | CO | CH4O
catalyst | palladium acetate | 0.0007672 mol, 0.1722 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid methyl ester | 4.242 g | COC(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br | C13H11BrN2O3
